US08207168B2
4-(4-Ethoxycarbonylphenoxy)piperidine-1-carboxylic acid tert-butyl ester was prepared from 4-hydroxybenzoic acid ethyl ester and 4-hydroxypiperidine-1-carboxylic acid tert-butyl ester using the procedure described in Example 103 step 1; Mp 76-78° C.; MS m/z 350 (M+H).

reactant | 4-hydroxybenzoic acid ethyl ester | C(C)OC(C1=CC=C(C=C1)O)=O | C9H10O3
reactant | 4-hydroxypiperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)O | C10H19NO3
product | 4-(4-Ethoxycarbonylphenoxy)piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC=C(C=C1)C(=O)OCC | C19H27NO5
